US07012075B2
To a solution of 3-amino-4-bromo-1-methylpyrazole (2.69 g, 15.28 mmol) and DMAP (6.16 g, 50.45 mmol) in CH2Cl2 (100 mL) at 0° C. under dry nitrogen was added 2,2,2-trichloroethyl chloroformate (4.7 mL, 33.62 mmol) dropwise. The reaction mixture was warmed to rt and stirred for 1 hour. The reaction was quenched with water and the product extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 25/75, then 3/7 and 1/1) to afford bis(2,2,2-trichloroethyl) 4-bromo-1-methyl-1H-pyrazol-3-ylimidodicarbonate.

reactant | 3-amino-4-bromo-1-methylpyrazole | 15.28 mmol, 2.69 g | NC1=NN(C=C1Br)C | C4H6BrN3
reactant | 2,2,2-trichloroethyl chloroformate | 33.62 mmol, 4.7 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
catalyst | DMAP | 50.45 mmol, 6.16 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | bis(2,2,2-trichloroethyl) 4-bromo-1-methyl-1H-pyrazol-3-ylimidodicarbonate | BrC=1C(=NN(C1)C)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C10H8BrCl6N3O4
